US08729105B2
To the stirred solution of 4-chloromethyl-2-cyclopropyl-oxazole (4.0 g, 25.38 mmol) in dry DMF (30 mL), was added potassium salt of phthalimide (4.7 g, 25.38 mmol) at rt. The resulting mixture was stirred for 24 h at rt and monitored through TLC. After completion of the reaction, water (200 mL) was added and the crude was extracted with ethyl acetate (3×50 mL). The combined organic layer was washed with brine, dried over anhydrous sodium sulphate and concentrated under reduced pressure to obtained crude residue which was purified via column chromatography (100-200 silica gel, elution with 20% EtOAc in hexane). 3.5 g of 2-(2-cyclopropyl-oxazol-4-ylmethyl)-isoindole-1,3-dione was obtained as a white solid, 269.2 (M+H)+, which contained phthalimide. This compound was used for the next step as such.

reactant | 4-chloromethyl-2-cyclopropyl-oxazole | 25.38 mmol, 4.0 g | ClCC=1N=C(OC1)C1CC1 | C7H8ClNO
reactant | potassium | [K] | K
reactant | phthalimide | 25.38 mmol, 4.7 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | water | 200 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(2-cyclopropyl-oxazol-4-ylmethyl)-isoindole-1,3-dione | 3.5 g | C1(CC1)C=1OC=C(N1)CN1C(C2=CC=CC=C2C1=O)=O | C15H12N2O3
